US05157041
0.25 g of N2 -(benzyloxycarbonyl)-4(R)-(tert.butoxyformamido)-N1 -tert.butyl-L-prolinamide was dissolved in ethanol and hydrogenated over 0.1 g of 10% palladium-on-carbon at room temperature and under atmospheric pressure for 4 hours. The catalyst was filtered off and the filtrate was evaporated to give 0.17 g of 4(R)-(tert.butoxyformamido)-N1 -tert.butyl-L-prolinamide as a glass which was used without further purification.

reactant | N2 (benzyloxycarbonyl)-4(R)-(tert.butoxyformamido)-N1 -tert.butyl-L-prolinamide | 0.25 g | N#N.C(C1=CC=CC=C1)OC(=O)[C@@]1(N(C[C@@H](C1)NC(=O)OC(C)(C)C)C(C)(C)C)C(=O)N
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | 4(R)-(tert.butoxyformamido)-N1 -tert.butyl-L-prolinamide | 0.17 g | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](N(C1)C(C)(C)C)C(=O)N | C14H27N3O3
